US05159082
3.56 g (20 mmol) of sodium p-tolunesulfinate, 2.75 g (20 mmol) of p-chlorobenzonitrile, 0.0225 g (0.1 mmol) of palladium acetate, 0.0478 g (0.12 mmol) of 1,2-bis(diphenylphosphino) ethane, 11.2 g (200 mmol) of calcium oxide and 60 ml of N-methyl-2-pyrrolidone were placed in a 100 ml round bottom flask and reacted at 150° C. in a nitrogen gas stream for 6 hours. After the completion of the reaction, the reaction mixture solution was analyzed by means of high performance liquid chromatography. The analysis showed that 4.9 mmol (yield 25%) of 4'-cyano-4-methyl-biphenyl was formed in the reaction mixture solution.

reactant | sodium | 20 mmol, 3.56 g | [Na] | Na
reactant | p-chlorobenzonitrile | 20 mmol, 2.75 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | calcium oxide | 200 mmol, 11.2 g | [O-2].[Ca+2]
catalyst | palladium acetate | 0.1 mmol, 0.0225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,2-bis(diphenylphosphino) ethane | 0.12 mmol, 0.0478 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 4'-cyano-4-methyl-biphenyl | 4.9 mmol, yield 25% | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H11N
